US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (2.0 ml of a 0.075 M methanol solution, 0.15 mmol) was treated with 1-methylpiperazine (23 mg, 0.23 mmol) via procedure W to afford 35 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(imino(4-methylpiperazin-1-yl)methyl)benzamide. MS (Q1) 434 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | 1-methylpiperazine | 0.23 mmol, 23 mg | CN1CCNCC1 | C5H12N2
solvent | methanol | 0.075 M | CO | CH4O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(imino(4-methylpiperazin-1-yl)methyl)benzamide | 35 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(N1CCN(CC1)C)=N)=O)C1=NC=CC=C1 | C24H24ClN5O
